US04876376
p-nitrotrifluoromethoxybenzene:
2-nitro-4-bromotrifluoromethoxybenzene and 3-nitro-4-bromotrifluoromethoxybenzene: 48%

reactant | 2-nitro-4-bromotrifluoromethoxybenzene | [N+](=O)([O-])C1=C(C=CC(=C1)Br)OC(F)(F)F | C7H3BrF3NO3
reactant | 3-nitro-4-bromotrifluoromethoxybenzene | [N+](=O)([O-])C=1C=C(C=CC1Br)OC(F)(F)F | C7H3BrF3NO3
product | p-nitrotrifluoromethoxybenzene | [N+](=O)([O-])C1=CC=C(C=C1)OC(F)(F)F | C7H4F3NO3
